US03953430
Preparation of 4,9-Dihydro-4-methyl-9-[2-(1-pyrrolidinyl)ethyl]-10H-thieno[3,4-b] [1,5]benzodiazepin-10-one
A mixture of 0.31 g. of 55% sodium hydride-mineral oil dispersion and 0.60 g. of N-(2-chloroethyl)pyrrolidine hydrochloride in 25 ml. of dry dimethylformamide is stirred at room temperature for 0.5 hours. To the mixture is added 0.40 g. of 4,9-dihydro-4-methyl-10H-thieno[3,4-b] [1,5]benzodiazepin-10-one and stirring is continued for 18 hours. The reaction mixture is cooled, quenched with water, and extracted with chloroform. The dried chloroform extracts are concentrated to an oil which crystallizes on trituration with ether. Recrystallization from ethyl acetate-hexane gives white crystals, m.p. 139°-141°C.

reactant | sodium hydride | [H-].[Na+]
reactant | N-(2-chloroethyl)pyrrolidine hydrochloride | Cl.ClCCN1CCCC1
reactant | 4,9-dihydro-4-methyl-10H-thieno[3,4-b] [1,5]benzodiazepin-10-one | CN1C=2C(C(NC3=C1C=CC=C3)=O)=CSC2 | C12H10N2OS
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4,9-Dihydro-4-methyl-9-[2-(1-pyrrolidinyl)ethyl]-10H-thieno[3,4-b] [1,5]benzodiazepin-10-one | CN1C=2C(C(N(C3=C1C=CC=C3)CCN3CCCC3)=O)=CSC2 | C18H21N3OS
